US08008505B2
4.3 [2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-cyclohexyl-acetic acid ethyl ester
(4-Chloro-phenyl)-hydrazine (100 mg, 700 μmol; CAS Reg. No. 1073-69-4) was added to a solution of 2-cyclohexyl-3-oxo-3-(2-oxo-cyclohexyl)-propionic acid ethyl ester (206 mg, 700 μmol) in ethanol (4.7 ml). The reaction mixture was heated under reflux conditions for 6 h. The solvent was removed under reduced pressure. The residue was taken up in ice water/brine 1/1 and extracted two times with iPrOAc. The combined extracts were washed with ice water/brine 1/1 and dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give a brown oil which was purified by preparative thick layer chromatography (silica gel, iPrOAc/heptane) to give the title compound (130 mg, 324 μmol; 46%) as orange solid. MS: m/e=401.2 [M+H+].

reactant | (4-Chloro-phenyl)-hydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | 2-cyclohexyl-3-oxo-3-(2-oxo-cyclohexyl)-propionic acid ethyl ester | 700 μmol, 206 mg | C(C)OC(C(C(C1C(CCCC1)=O)=O)C1CCCCC1)=O | C17H26O4
solvent | ethanol | 4.7 ml | C(C)O | C2H6O
product | [2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-cyclohexyl-acetic acid ethyl ester | 324 μmol, 130 mg, 46% | C(C)OC(C(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O | C23H29ClN2O2
